US08426411B2
N,N-dibenzyl-4-(3-tosyl-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)cyclohexanamine (5.6 g, 9.5 mmol) was dissolved in 1,4-dioxane (80 mL). Aqueous NaOH (2 N, 47.5 mL, 95 mmol) was added and the reaction mixture was heated at about 60° C. for about 120 min. The organic solvent was removed under reduced pressure and the residue was extracted with 2-methyl tetrahydrofuran (300 mL). The aqueous layer was extracted with 2-methyl tetrahydrofuran (3×50 mL). The combined organic extracts were washed with brine (30 mL), dried over anhydrous Na2SO4 and concd under reduced pressure. To the residue was added EtOAc (500 mL). The solid was removed by filtration and the filtrate was dried over anhydrous Na2SO4 and concd under reduced pressure. Purification by silica gel flash chromatography eluting with a gradient of 1-8% MeOH in EtOAc yielded (cis)-N,N-dibenzyl-4-(3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)cyclohexanamine (1.0 g, 24%): LC/MS (Table 1, Method a) Rt=2.48 min; MS m/z 436 (M+H)+.

reactant | N,N-dibenzyl-4-(3-tosyl-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)cyclohexanamine | 9.5 mmol, 5.6 g | C(C1=CC=CC=C1)N(C1CCC(CC1)C1=CN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1)CC1=CC=CC=C1 | C35H35N5O2S
reactant | NaOH | 95 mmol, 2 N, 47.5 mL | [OH-].[Na+]
solvent | 1,4-dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | (cis)-N,N-dibenzyl-4-(3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)cyclohexanamine | 1.0 g, 24% | C(C1=CC=CC=C1)N([C@@H]1CC[C@@H](CC1)C1=CN=C2N1C1=C(N=C2)NC=C1)CC1=CC=CC=C1 | C28H29N5
